US09399639B2
Step 3) (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl 2-aminoacetate hydrochloride
The title compound was prepared according to the procedure as described in Example 17 Step 3 using (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl 2-((tert-butoxycarbonyl)amino)acetate (46 mg, 0.07 mmol) and a saturated solution of HCl in EtOAc (2 mL). The title compound was obtained as a white solid (36 mg, 83.7%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl 2-((tert-butoxycarbonyl)amino)acetate | 0.07 mmol, 46 mg | C(C)(C)(C)OC(=O)NCC(=O)OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C31H31ClF2N4O7S
reactant | HCl | Cl | ClH
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | InChI=1S/C26H23ClF2N4O5S.ClH/c1-2-9-39(36,37)32-21-8-7-20(28)23(24(21)29)25(35)19-13-33(14-38-22(34)11-30)26-18(19)10-16(12-31-26)15-3-5-17(27)6-4-15;/h3-8,10,12-13,32H,2,9,11,14,30H2,1H3;1H
